US08278442B2
Preparation 43: 6-{4-[(3-Methylbutylamino)methyl]naphthalen-1-yloxy}nicotinonitrile hydrochloride
To a solution of 6-(4-formylnaphthalen-1-yloxy)nicotinonitrile (Preparation 1) (1.50 g, 5.47 mmol) in DCM (15 mL) was added acetic acid (0.98 mL, 16.42 mmol) and 3-methylbutylamine (1.91 mL, 16.42 mmol). After 1 h NaBH(OAc)3 (3.48 g, 16.42 mmol) and DCM (20 mL) were added. The reaction was stirred at rt for a further 16 h. The mixture was partitioned between DCM (150 mL) and saturated NaHCO3 (200 mL), the organic phase washed with water (200 mL) and dried (MgSO4). Solvent removed in vacuo. To the residue was added ether (10 mL) followed by 4M HCl in dioxane (1.0 mL, 4.0 mmol). A further 40 mL of ether was added and the resulting precipitate filtered and dried under vacuum to give the title compound: RT=2.84 min; m/z (ES+)=346.2 [M+H]+.

reactant | 6-(4-formylnaphthalen-1-yloxy)nicotinonitrile | 5.47 mmol, 1.50 g | C(=O)C1=CC=C(C2=CC=CC=C12)OC1=NC=C(C#N)C=C1 | C17H10N2O2
reactant | acetic acid | 16.42 mmol, 0.98 mL | C(C)(=O)O | C2H4O2
reactant | 3-methylbutylamine | 16.42 mmol, 1.91 mL | CC(CCN)C | C5H13N
reactant | NaBH(OAc)3 | 16.42 mmol, 3.48 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 4.0 mmol, 1.0 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 40 mL | CCOCC | C4H10O
product | 6-{4-[(3-Methylbutylamino)methyl]naphthalen-1-yloxy}nicotinonitrile hydrochloride | Cl.CC(CCNCC1=CC=C(C2=CC=CC=C12)OC1=NC=C(C#N)C=C1)C | InChI=1S/C22H23N3O.ClH/c1-16(2)11-12-24-15-18-8-9-21(20-6-4-3-5-19(18)20)26-22-10-7-17(13-23)14-25-22;/h3-10,14,16,24H,11-12,15H2,1-2H3;1H
